US05877199
1-Methylcarbazole-2-carboxylic acid
4 ml of ethanol and 4 ml of a 2N aqueous solution of potassium hydroxide were added to 100 mg of ethyl 1-methylcarbazole-2-carboxylate (obtained according to the procedures described in C. J. Moody and K. F. Rahimtoola, J. Chem. Soc. Parkin. Trans. I, 673 (1990)]. The reaction mixture was stirred for 2 hours at room temperature, and then acidified by the addition of a 1N aqueous solution of hydrochloric acid, after which it was concentrated by evaporation under reduced pressure. Ethyl acetate was added to the residue. The aqueous layer was extracted with ethyl acetate, and the organic extract was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The resulting residue was recrystallized from ethyl acetate and hexane, to yield 81 mg of the title compound, melting at >240° C.

reactant | potassium hydroxide | [OH-].[K+]
reactant | ethyl 1-methylcarbazole-2-carboxylate | 100 mg | CC1=C(C=CC=2C3=CC=CC=C3NC12)C(=O)OCC | C16H15NO2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 1-Methylcarbazole-2-carboxylic acid | 81 mg | CC1=C(C=CC=2C3=CC=CC=C3NC12)C(=O)O | C14H11NO2
